US06924284B2
2-Iodo-3-methylbenzoic acid (1.50 g, 5.70 mmol) was dissolved in DMF (15 mL) and treated with CuCN (0.625 g, 7.0 mmol). The solution was heated at 85° C. for 1 h, cooled and poured into water (25 mL). The solution was cooled to 0° C. and 2-cyano-3-methylbenzoic acid precipitated from the solution was isolated by filtration to yield 0.651 mg of a white solid (71%). Crude 2-cyano-3-methylbenzoic acid (0.50 g, 3.1 mmol) was dissolved in MeOH (10 mL) and cooled to 0° C. This solution was treated with excess trimethylsilyl chloride (5.0 mmol) and allowed to warm to RT where it was stirred for 5 h. The methanol was removed under vacuum and the residue was treated with water (20 mL) and extracted with ethyl acetate and concentrated to yield methyl 2-cyano-3-methylbenzoate (0.44 g, 2.52 mmol). To this solid was added DMF (5 mL), Sc(OTf)3 (0.01 g, 0.02 mmol), and diaminopropane (0.22 g, 3.0 mmol). The resulting mixture was heated at 85° C. for 0.5 h, cooled and the cyclic intermediate 5-Methyl-2,3-dihydro-1H-4,9a-diaza-fluoren-9-one was isolated by trituration with ether. This compound (0.112 g, 0.5 mmol) was dissolved in ethanol containing excess hydrazine hydrate (3.0 mmol). This solution was stirred at RT for 20 h and 4-(3-amino-propylamino)-5-methyl-2H-phthalazin-1-one was isolated by flash chromatography (MeOH/DCM/Et3N).

reactant | 2-cyano-3-methylbenzoic acid | 3.1 mmol, 0.50 g | C(#N)C1=C(C(=O)O)C=CC=C1C | C9H7NO2
reactant | trimethylsilyl chloride | 5.0 mmol | C[Si](C)(C)Cl | C3H9ClSi
solvent | MeOH | 10 mL | CO | CH4O
product | methyl 2-cyano-3-methylbenzoate | 2.52 mmol, 0.44 g | C(#N)C1=C(C(=O)OC)C=CC=C1C | C10H9NO2
